US05877353
The synthesis is based essentially on the reaction of 4-bromotoluene with 4-(benzyloxy)-3-methoxybenzaldehyde in the presence of butyllithium to give 4-(benzyloxy)-3-methoxy-4'-methylbenzhydrol. By oxidation to 4-(benzyloxy)-3-methoxy-4'-methylbenzophenone and subsequent debenzylation there is obtained 4-hydroxy-3-methoxy-4'-methylbenzophenone. After regioselective nitration to 4-hydroxy-3-methoxy-4'-methyl-5-nitrobenzophenone and subsequent hydrolysis of the methoxy group there is obtained the aforementioned inhibitor 3,4-dihydroxy-4'-methyl-5-nitrobenzophenone.

reactant | 4-bromotoluene | BrC1=CC=C(C=C1)C | C7H7Br
reactant | 4-(benzyloxy)-3-methoxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | butyllithium | C(CCC)[Li]
product | 4-(benzyloxy)-3-methoxy-4'-methylbenzhydrol | C(C1=CC=CC=C1)OC1=C(C=C(C(C2=CC=C(C=C2)C)O)C=C1)OC | C22H22O3
